US07407955B2
1-[(1H-benzoimidazol-2-yl)methyl]-3-methyl-7-(2-butyn-1-yl)-8-[3-(tert.-butyloxycarbonylamino)-piperidin-1-yl]-xanthine
350 mg of 1-[(2-amino-phenylaminocarbonyl)methyl]-3-methyl-7-(2-butyn-1-yl)-8-[3-(tert.-butyloxycarbonylamino)-piperidin-1-yl]-xanthine are refluxed in 3 ml glacial acetic acid for two hours. Then the reaction mixture is evaporated down, the flask residue is combined with 5 ml of 1 M sodium hydroxide solution and washed with methylene chloride. Then the aqueous phase is acidified with 1 M hydrochloric acid and extracted with methylene chloride. The combined extracts are evaporated down and chromatographed through a silica gel column with cyclohexane/ethyl acetate/methanol (6:4:0 to 5:4:1) as eluant.

reactant | 1-[(2-amino-phenylaminocarbonyl)methyl]-3-methyl-7-(2-butyn-1-yl)-8-[3-(tert.-butyloxycarbonylamino)-piperidin-1-yl]-xanthine | 350 mg | NC1=C(C=CC=C1)NC(=O)CN1C(=O)N(C=2N=C(N(C2C1=O)CC#CC)N1CC(CCC1)NC(=O)OC(C)(C)C)C | C28H36N8O5
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | 1-[(1H-benzoimidazol-2-yl)methyl]-3-methyl-7-(2-butyn-1-yl)-8-[3-(tert.-butyloxycarbonylamino)-piperidin-1-yl]-xanthine | N1C(=NC2=C1C=CC=C2)CN2C(=O)N(C=1N=C(N(C1C2=O)CC#CC)N2CC(CCC2)NC(=O)OC(C)(C)C)C | C28H34N8O4
